US09056865B2
Step 6: 3-chloro-6-{4-[(2-methoxyethyl)sulfonyl]piperazin-1-yl}-2,2′-bipyridine
To a 0° C. solution of 3-chloro-6-(4-(vinylsulfonyl)piperazin-1-yl)-2,2′-bipyridine (68 mg, 0.190 mL) in methanol (1.8 mL), Na metal (47.5 mg, 2.05 mmol) washed in heptane was added and stirred for 15 min at 0° C. The reaction mixture was heated to 50° C. and stirred for 2 h and was cooled to RT, diluted with H2O (20 mL), extracted with ethyl acetate (3×20 mL). The combined organic layer was washed with brine (15 mL), dried over sodium sulfate, filtered and concentrated under reduced pressure and purified by column chromatography (30 to 75% ethyl acetate/heptane) to obtain pure product (29 mg, 39% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.65 (d, J=4.80 Hz, 1 H) 7.92 (td, J=7.71, 1.77 Hz, 1 H) 7.75 (d, J=9.09 Hz, 1 H) 7.69 (d, J=7.83 Hz, 1 H) 7.44 (ddd, J=7.52, 4.86, 1.01 Hz, 1 H) 7.00 (d, J=8.84 Hz, 1 H) 3.57-3.70 (m, 8 H) 3.35 (t, J=5.94 Hz, 2 H) 3.30 (s, 3 H) 3.22-3.27 (m, 2 H). LCMS (M+H)+: 397.0.

reactant | 3-chloro-6-(4-(vinylsulfonyl)piperazin-1-yl)-2,2′-bipyridine | 0.190 mL, 68 mg | ClC=1C(=NC(=CC1)N1CCN(CC1)S(=O)(=O)C=C)C1=NC=CC=C1 | C16H17ClN4O2S
reactant | methanol | 1.8 mL | CO | CH4O
solvent | heptane | CCCCCCC | C7H16
solvent | H2O | 20 mL | O | H2O
product | 3-chloro-6-{4-[(2-methoxyethyl)sulfonyl]piperazin-1-yl}-2,2′-bipyridine | 29 mg, 39% yield | ClC=1C(=NC(=CC1)N1CCN(CC1)S(=O)(=O)CCOC)C1=NC=CC=C1 | C17H21ClN4O3S
